US06458772B1
d) Synthesis of 2′,3′-dideoxy-3′-fluoro-5′-O-{3-[1,3-bis-(N-CBZ-L-valyloxy)-2-propyloxycarbonyl]propanoyl}guanosine
A mixture of 2′,3′dideoxy-3′-fluoroguanosine (17.8 g, 66 mmole), HOBT (10.64 g, 78.8 mmole), succinic acid 1,3-bis-(N-CBZ-L-valyloxy)-2-propyl ester (52 g, 78.8 mmole) and DMAP (0.96 g, 7.88 mmole) was coevaporated two times with DMF and reduced to about 500 ml. DCC (17.3 g, 84 mmole) was added and the mixture was stirred overnight at room temperature. The mixture was warmed for six hours at 60° C. and then cooled to about 10° C. The mixture was filtered and the solution was reduced under reduced pressure. 1200 ml of ethyl acetate was added and the organic phase was washed twice with 5% acetic acid, 5% sodium hydrogen carbonate and water. The organic phase was dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chromatography. Yield: 42 g.

reactant | 2′,3′dideoxy-3′-fluoroguanosine | 66 mmole, 17.8 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(=O)NC(N)=NC12 | C10H12FN5O3
reactant | HOBT | 78.8 mmole, 10.64 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | succinic acid 1,3-bis-(N-CBZ-L-valyloxy)-2-propyl ester | 78.8 mmole, 52 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)OC(CCC(=O)O)=O | C33H42N2O12
reactant | DCC | 84 mmole, 17.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 7.88 mmole, 0.96 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2′,3′-dideoxy-3′-fluoro-5′-O-{3-[1,3-bis-(N-CBZ-L-valyloxy)-2-propyloxycarbonyl]propanoyl}guanosine | F[C@H]1C[C@@H](O[C@@H]1COC(CCC(=O)OC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O)N1C=NC=2C(=O)NC(N)=NC12 | C43H52FN7O14
